US07517889B2
To a mixture of 3-cyano-piperidine-1-carboxylic acid benzyl ester (1 g, 4.1 mmol), and dibutyltinoxide (153 mg, 0.6 mmol) in toluene (8 mL) is added trimethylsilylazide (1.1 mL, 8.2 mmol) at room temperature. After the mixture is heated at 95° C. for 15 h, more trimethylsilylazide (2 mL, 15 mmol) is added and the stirring is continued for 6 h at 95° C. The mixture is concentrated, and the resulting solid is triturated with heptane (30 mL) and filtered to afford 3-(1H-tetrazol-5-yl)-piperidine-1-carboxylic acid benzyl ester (1 g). LCMS: RT=2.31 minutes, MS: 288 (M+H).

reactant | 3-cyano-piperidine-1-carboxylic acid benzyl ester | 4.1 mmol, 1 g | C(C1=CC=CC=C1)OC(=O)N1CC(CCC1)C#N | C14H16N2O2
reactant | dibutyltinoxide | 0.6 mmol, 153 mg | C(CCC)[Sn](CCCC)=O
reactant | trimethylsilylazide | 8.2 mmol, 1.1 mL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | trimethylsilylazide | 15 mmol, 2 mL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(1H-tetrazol-5-yl)-piperidine-1-carboxylic acid benzyl ester | 1 g | C(C1=CC=CC=C1)OC(=O)N1CC(CCC1)C1=NN=NN1 | C14H17N5O2
